US08012966B2
A stirred solution of 2-[(2-diethylamino-ethylcarbamoyl)-methyl]-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (310 mg, 1 mmol) in anhydrous tetrahydrofuran (2 ml) was added dropwise slowly with 1M borane-tetrahydrofuran complex in tetrahydrofuran (3 ml, 3 mmol) under an argon atmosphere. Upon completion of the addition, the mixture was stirred at room temperature for 1 hour and heated to reflux for another 5 hours. The reaction mixture was added with cold water (5 ml) and 1N hydrochloric acid (2 ml) dropwise, the mixture was stirred for 5 minutes, adjusted to pH 10 with 10% aqueous sodium hydroxide solution and extracted with ethyl acetate (10 ml×5). The combined organic extracts were washed with brine (15 ml), dried with anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 2-[2-(2-diethylamino-ethylamino)-ethyl]-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (300 mg) as a brown oil which was used as such.

reactant | 2-[(2-diethylamino-ethylcarbamoyl)-methyl]-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 1 mmol, 310 mg | C(C)OC(=O)C1=C(NC=C1C)CC(NCCN(CC)CC)=O | C16H27N3O3
reactant | water | 5 ml | O | H2O
reactant | hydrochloric acid | 1N, 2 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mmol, 3 ml | O1CCCC1 | C4H8O
product | 2-[2-(2-diethylamino-ethylamino)-ethyl]-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 300 mg | C(C)OC(=O)C1=C(NC=C1C)CCNCCN(CC)CC | C16H29N3O2
